US07893058B2
Step 1: 4-Bromo-6-methylpyridin-2-ol
A solution of 6-methylpyridine-2,4-diol (1.75 g, 14.0 mmol) in dry DMF (6.0 mL) is stirred under N2 and phosphorus oxybromide (3.05 g, 10.6 mmol) is added in one portion. The mixture is heated at 110° C. for 45 min and then cooled and diluted with water (7 mL). Na2CO3 (s) is added to bring the pH to 7 and the resulting suspension is cooled to 0° C. The product is collected by suction filtration, rinsing with cold water and diethyl ether, and dried overnight in a vacuum desiccator to afford the title compound as a light brown solid (920 mg).

reactant | 6-methylpyridine-2,4-diol | 14.0 mmol, 1.75 g | CC1=CC(=CC(=N1)O)O | C6H7NO2
reactant | phosphorus oxybromide | 10.6 mmol, 3.05 g | P(=O)(Br)(Br)Br | Br3OP
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 6.0 mL | CN(C)C=O | C3H7NO
solvent | water | 7 mL | O | H2O
product | 4-Bromo-6-methylpyridin-2-ol | 920 mg | BrC1=CC(=NC(=C1)C)O | C6H6BrNO
